Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fecal incontinence
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man hx depression, anxiety, hypothyroidism, gout,
chronic urinary retention w suprapubic catheter who is
transferred from ___ for fecal incontinence and MRI
imaging. 

He presented to ___ with history of fecal incontinence; he
denied any back pain, and was noted to have intact strength and
sensation. He also reported ___ year of urinary retention, now 
with
a suprapubic catheter, of uncertain cause. Based on these
findings, was referred to our hospital for MRI evaluation.

In the ED the patient reported that for the last 6 days, he has
been unable to control his stooling. He has not had diarrhea;
rather the stools have been soft or semi-formed, but have come
out of their own accord. He denied any back pain, numbness,
tingling, or weakness of his bilateral lower extremities. No
fevers or chills. He does have a suprapubic catheter; per his
daughter, they follow with a urologist at ___. He developed
urinary retention about ___ year ago, initially thought to be due
to BPH, pt is s/p TURP without resolution retention therefore 
the
suprapubic catheter was placed. 

On further history noted in the ED: Mr. ___ has a history 
of
significant depression and anxiety. He has a history of 
attempted
self-harm last year by placing a bag over his head and taking an
Ambien overdose. However, he denies any present suicidal or
homicidal ideation. He denies any hallucinations. His daughter
reports that he has barely been getting out of bed over the last
4 weeks. She thinks his depression and anxiety have worsened. He
has been unable to access olanzapine and benztropine for the 
past
___ weeks.  Unfortunately, he has no insurance, and no regular
providers with whom he can follow-up in the outpatient setting.
His daughter states that due to worsening depression and 
anxiety,
he has remained in bed almost exclusively for the last 4 weeks,
and that with his fecal incontinence, this has become
unmanageable at home. 

Mr. ___ was admitted for further workup of his fecal
incontinence given that no outpatient workup is possible right
now, as well as consideration for inpatient psychiatric
consultation for his depression and anxiety. He denies any
suicidal or homicidal ideation, and does not require section at
this time.

On arrival to the floor, pt with daughter/hcp at bedside reports
continued fecal incontinence. They confirmed the above story. In
addition he denies history of hemorrhoids, melena and blood in
stool. He denies recent history of constipation however does
report that constipation has been an intermittent issue for him
in the past. He  had a colonoscopy ___ years ago which was an
inadequate prep. He denied SI/HI ROS negative for fevers chills
or sweats. 

- In the ED, initial vitals were:
T 98.5, HR: 102, BP 123/83 RR: 20 O2: 94% 

- Exam was notable for:

Constitutional: Comfortable.
Head/eyes: NCAT, PERRLA, EOMI.
ENT/neck: OP WNL
Chest/Resp: CTAB.
Cardiovascular: RRR, Normal S1/S2.
Abdomen: Soft, nondistended. Nontender.
Musc/Extr/Back: ___. No edema.
Skin: No rash. Warm and dry.
Neuro: Speech fluent. Alert and oriented. Cranial nerves II
through XII intact, 5+ strength in all extremities, sensation
intact in all extremities, finger nose finger normal, no 
pronator
drift. Rectal tone is normal, and can be augmented.

Neurology consultants neuro exam: 
Neurology noted: 
His neurological exam is notable for mild parkinsonism (likely
drug-induced from olanzapine), mildly reduced rectal tone, and
preserved strength/sensation throughout. 
Psych: Normal mood. Normal mentation.

- Labs were notable for:
CBC: unremarkable 
TSH: 0.36
BMP: Na 141, K: 3.9, Cl: 109, Bicarb 20, BUN 21, Cr: 1.0 
U/A I/s/o chronic suprapubic catheter: large leuks, moderate
blood, positive nitrites, >182 WBC, many bacteria 

- Studies were notable for:
MRI T spine:
1. No evidence of compression or signal abnormality within the
cervical or
thoracic spinal cord.
2. Moderate multilevel degenerative changes of the cervical
spine,
predominantly spanning the C3-7 levels, with multiple disc 
bulges
and
associated spinal canal and neural foraminal narrowing as
described above

MRI L Spine:
Cord or cauda equina compression: no
Cord signal abnormality: no
Epidural collection: no

MRI C Spine: 
1. Normal cord. 
 2. Degenerative changes cervical spine, moderate central canal
narrowing C4-C5 
 level, multilevel foraminal narrowing as above. 
 3. Mild degenerative changes thoracic spine, epidural
lipomatosis, no significant central canal or foraminal 
narrowing.

- The patient was given:

  Benztropine Mesylate 2 mg PO/NG BID 
  OLANZapine 10 mg PO QHS 
  Levothyroxine Sodium 100 mcg PO/NG DAILY  
  Allopurinol ___ mg PO/NG DAILY 

- Neurology was consulted:

They had a low suspicion for neurological cause of patient's
symptoms however recommended MRI to exonerate cord compression
considering mildly decreased rectal tone and brisk lower
extremity reflexes. They also noted "Suspect history of urinary
retention is at least partially attributable to the 
benztropine."

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.

 
Past Medical History:
depression
anxiety 
hypothyroidism 
gout 
chronic urinary retention w suprapubic catheter 

 
Social History:
___
Family History:
Mother: DM, Heart problems 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 97.6 BP: 134 / 84 HR: 79 RR: 18 O2:  96  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
-Suprapubic catheter in place, mild tenderness around catheter
site, no drainage around catheter. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. 

DISCHARGE PHYSICAL EXAM
========================
VITALS: ___ 0805 Temp: 98.1 PO BP: 111/70 R Lying HR: 78 
RR:
18 O2 sat: 94% O2 delivery: Ra   
GENERAL: Laying down in bed, NAD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly. Suprapubic
catheter in place, mild tenderness around catheter site, no
drainage around catheter. 
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. No rashes.

 
Pertinent Results:
ADMISSION LABS
===============
___ 07:52AM BLOOD WBC-7.1 RBC-4.36* Hgb-13.7 Hct-43.1 
MCV-99* MCH-31.4 MCHC-31.8* RDW-13.7 RDWSD-50.3* Plt ___
___ 07:52AM BLOOD Neuts-62.8 ___ Monos-7.2 Eos-4.4 
Baso-0.7 Im ___ AbsNeut-4.42 AbsLymp-1.73 AbsMono-0.51 
AbsEos-0.31 AbsBaso-0.05
___ 07:52AM BLOOD ___ PTT-28.5 ___
___ 07:52AM BLOOD Glucose-89 UreaN-21* Creat-1.0 Na-141 
K-3.9 Cl-109* HCO3-20* AnGap-12
___ 07:52AM BLOOD Glucose-89 UreaN-21* Creat-1.0 Na-141 
K-3.9 Cl-109* HCO3-20* AnGap-12
___ 07:52AM BLOOD Calcium-8.5 Phos-3.3 Mg-2.0
___ 07:52AM BLOOD TSH-0.36
___ 10:03AM URINE Color-Yellow Appear-Cloudy* Sp ___ 
L.
___ 10:03AM URINE Blood-MOD* Nitrite-POS* Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
___ 10:03AM URINE RBC-20* WBC->182* Bacteri-MANY* 
Yeast-NONE Epi-0
___ 10:03AM URINE WBC Clm-MANY* Mucous-FEW*

DISCHARGE LABS
===============
___ 07:24AM BLOOD WBC-6.7 RBC-4.33* Hgb-13.6* Hct-42.9 
MCV-99* MCH-31.4 MCHC-31.7* RDW-13.7 RDWSD-49.7* Plt ___
___ 07:24AM BLOOD Glucose-71 UreaN-27* Creat-1.1 Na-140 
K-4.3 Cl-103 HCO3-22 AnGap-15
___ 07:24AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.2

IMAGING
=========
CXR (___)
--------------
IMPRESSION:  
  
No evidence of infection or cardiac decompensation. 

MRI L SPINE W/O CON (___)
IMPRESSION: 
    
1. No evidence of compression or signal abnormality in the 
visualized spinal cord and cauda equina. 
2. Mild multilevel degenerative changes of the lumbar spine, as 
described 
above. 
3. Mild vertebral canal and mild bilateral neural foraminal 
narrowing at L3-L4 and L4-L5. 

MRI C SPINE AND L SPINE W/O CON (___)
IMPRESSION: 
  
1. Normal cord. 
2. Degenerative changes cervical spine, moderate central canal 
narrowing C4-C5 level, multilevel foraminal narrowing as above. 
3. Mild degenerative changes thoracic spine, epidural 
lipomatosis, no 
significant central canal or foraminal narrowing. 

KUB (___)
--------------
IMPRESSION:  
  
Substantial stool burden in the rectum. 

MICROBIOLOGY
==============
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 10:04 am
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      STAPH AUREUS COAG +.    >100,000 CFU/mL. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
NITROFURANTOIN--------  <=16 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

 
Brief Hospital Course:
SUMMARY
========
___ man hx depression, anxiety, hypothyroidism, gout, 
chronic urinary retention w suprapubic catheter who is
transferred from OSH with fecal incontinence which is not due to 
cord compression. 

ACUTE/ACTIVE ISSUES:
====================
#Fecal Incontinence 
Mr. ___ persistent fecal incontinence is without a clear 
cause. We ruled out spinal cord compression and other
neurologic causes with MRI C-spine, T-spine, and L-spine. Most 
likely etiology is that he was constipated with incomplete 
emptying leading to overflow incontinence in combination with 
possible avolition to get up to use the restroom due to his 
depression. Also a possibility of cholinergic rebound after not 
being on olanzapine, benztropine
for ___ weeks due to insurance issues. A KUB showed increased 
stool burden in his rectum. He was restarted on his home 
olanzapine and benztropine. He was also placed on a standing 
bowel regimen. His incontinence resolved prior to discharge.

#Depression/Anxiety 
Recently poorly controlled with patient primarily bedbound ___ 
mood. Patient was restarted on his home olanzapine and 
benztropine. Social work was consulted, and psychiatry was 
consulted. Psychiatry had no further recommendations and did not 
feel that the patient needed inpatient psychiatric admission. 

CHRONIC/STABLE ISSUES:
======================
#Hypothryoidism: 
- Continued home levothyroxine 

#Gout: 
- Continued allopurinol 

#Chronic Urinary retention with suprapubic catheter

CORE MEASURES:
==============
# CODE: full confirmed 
# CONTACT: ___, Phone number: ___ 

TRANSITIONAL ISSUES
====================
[ ] Fecal incontinence - Please ensure patient is continuing 
with his bowel regimen and having regular bowel movements.
[ ] Depression - Please ensure patient is taking his medications 
and has re-connected with his outpatient psychiatric care. If he 
is unable to connect with Arbor due to insurance, please ensure 
he establishes with an alternate psychiatrist. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Benztropine Mesylate 2 mg PO BID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. OLANZapine 10 mg PO QHS 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY  
2.  Senna 8.6 mg PO BID  
3.  Benztropine Mesylate 2 mg PO QHS  
4.  OLANZapine 5 mg PO QHS  
5.  Allopurinol ___ mg PO DAILY  
6.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Overflow fecal incontinence

SECONDARY DIAGNOSIS
====================
Depression
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were having 
fecal incontinence for unknown reasons.

WHAT WAS DONE WHILE I WAS HERE?
- You underwent MRI imaging of your spine to ensure that there 
was no spinal cord compression causing your fecal incontinence; 
the images showed no compression.
- You were seen by our Neurology team; they did not think that 
there was a neurologic reason for your incontinence.
- You were seen by our Psychiatry team, and they recommended a 
few small changes with your medications.
- We were able to stop the fecal incontinence with a good bowel 
regimen.

WHAT DO I NEED TO DO ONCE I LEAVE?
- Please take all of your medications as prescribed, especially 
your bowel regimen and anti-depressive medications.
- Keeping up with your bowel regimen will help ensure that this 
incontinence issue will not happen again.
- Please keep all of your appointments. 
- If you develop sudden weakness or numbness, please go to the 
nearest Emergency Room.

Be well,

Your ___ Care Team
 
Followup Instructions:
___